US04801717
N-hydroxy-phthalimide and 4-bromo-8-chloro-quinoline (a known compound) were reacted to obtain 0-(8-chloro-4-quinolyl)-phthalimide which was reacted to obtain 0-(8-chloro-4-quinolyl)-hydroxylamine melting at 194° C.

reactant | N-hydroxy-phthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-bromo-8-chloro-quinoline | BrC1=CC=NC2=C(C=CC=C12)Cl | C9H5BrClN
product | 0-(8-chloro-4-quinolyl)-phthalimide | ClC=1C=CC=C2C(=CC=NC12)C12C(C(=O)NC1=O)C=CC=C2 | C17H11ClN2O2
